US04118367
3-Aminopropyltriethoxysilane (442 g.), light petroleum (b.p. 30°-40°, 1600 ml) and anhydrous triethylamine (255 g.) were placed under dry nitrogen in a three-necked flask equipped with a stirrer and dropping funnel. The mixture was cooled to -10° C. and a solution of redistilled ethyl chloroformate (217 g.) in light petroleum (b.p. 30°-40° C., 600 ml) was added dropwise over 2 h. The mixture was allowed to warm to ambient temperature and left overnight. The mixture was then rapidly filtered and the solid washed with light petroleum (2 × 300 ml). The combined filtrate was then concentrated and fractionally distilled to give ethyl-N-(3-triethoxysilylpropyl)carbamate (517 g.), b.p. 125°-135° C./0.09 mm.

reactant | 3-Aminopropyltriethoxysilane | 442 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | ethyl chloroformate | 217 g | ClC(=O)OCC | C3H5ClO2
solvent | triethylamine | 255 g | C(C)N(CC)CC | C6H15N
product | ethyl-N-(3-triethoxysilylpropyl)carbamate | 517 g | C(C)OC(NCCC[Si](OCC)(OCC)OCC)=O | C12H27NO5Si
